US09340555B2
To a stirred suspension of 7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxylic acid (600 mg, 1.37 mmol) in 10 ml of anhydrous acetonitrile were added HATU (608 mg, 1.6 mmol) and N,N-diisopropylethylamine (388 mg, 3.0 mmol). The mixture was stirred at room temperature for 30 minutes, followed by addition of 1-amino-3,3-diethoxypropane (294 mg, 2.0 mmol). The mixture was stirred for another 10 minutes and poured into 100 ml of water with vigorous stirring. 1M HCl was added until pH=5. The precipitates were filtered, washed with water and dried in vacuo to give N-(3,3-diethoxypropyl)-7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxamide as yellow solid. Yield: 680 mg, 88%.

reactant | 7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxylic acid | 1.37 mmol, 600 mg | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)O)C=C1 | C22H16FN3O4S
reactant | HATU | 1.6 mmol, 608 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 3.0 mmol, 388 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-amino-3,3-diethoxypropane | 2.0 mmol, 294 mg | NCCC(OCC)OCC | C7H17NO2
reactant | HCl | 1M | Cl | ClH
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | N-(3,3-diethoxypropyl)-7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxamide | C(C)OC(CCNC(=O)C1=CC2=NC=CC(=C2S1)OC1=CC=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C)F)OCC | C29H31FN4O5S
